US06028074
(f) 3-[(3-Hydroxypropyl)thio]-5-methyl-7-(2-methyl-2-propenyl)-2-(1-naphthalenylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6[5H,7H]-dione
A solution of lithium diisopropylamide (1.12 mmol) in tetrahydrofuran (6 ml) was added dropwise to a stirred solution of 5-methyl-7-(2-methyl-2-propenyl)-2-(1-naphthalenylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6[5H,7H]-dione (0.20 g) and 3-{[dimethyl(1,1-dimethylethyl)silyl]oxy }propyl 4-methylphenylthiosulfonate (J. Med. Chem. 1995, 38, 2557) (0.262 g) in anhydrous tetrahydrofuran (20 ml) at -70° C. The solution was stirred for a further 1 hour at -70° C. and then allowed to warm to room temperature. Saturated aqueous sodium bicarbonate solution (10 ml) was added and the mixture was extracted with ethyl acetate. The organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residual oil was purified by column chromatography over silica eluting with acetone:hexane (1:5). The product was dissolved in acetonitrile (5 ml) and treated with 40% aqueous hydrofluoric acid (1 ml). After 5 minutes, the solution was neutralised with aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic extracts were washed with saturated aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was purified by column chromatography over silica eluting with acetone:hexane (1:5 then 1:3) followed by recrystallisation from diethyl ether/hexane to give the title compound (0.11 g).

reactant | lithium diisopropylamide | 1.12 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 5-methyl-7-(2-methyl-2-propenyl)-2-(1-naphthalenylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6[5H,7H]-dione | 0.20 g | CN1C(N(C=2C(C1=O)=CN(N2)CC2=CC=CC1=CC=CC=C21)CC(=C)C)=O | C21H20N4O2
reactant | 3-{[dimethyl(1,1-dimethylethyl)silyl]oxy }propyl 4-methylphenylthiosulfonate | 0.262 g | CC1=CC=C(C=C1)S(=S)(=O)OCCCO[Si](C(C)(C)C)(C)C | C16H28O3S2Si
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-[(3-Hydroxypropyl)thio]-5-methyl-7-(2-methyl-2-propenyl)-2-(1-naphthalenylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6[5H,7H]-dione | 0.11 g | OCCCSC=1N(N=C2N(C(N(C(C21)=O)C)=O)CC(=C)C)CC2=CC=CC1=CC=CC=C21 | C24H26N4O3S
